US06177568B1
Preparation of 3-morpholino-1-(2′-aminophenyl)propane-1-one
To a solution of 3-morpholino-l-(2′-nitrophenyl) propane-1-one (200 mg, 0.758 mmol) dissolved in 10 ml of 95% ethanol was added sodium dithionite (660 mg, 3.79 mmol) and the reaction mixture was stirred under reflux for 3 hrs. The reaction mixture was concentrated under reduced pressure. The residue was purified by flash column chromatography with ethanol-dichloromethane-triethylamine to yield the desired product (174 mg, 89%) as an oil.

reactant | 3-morpholino-l-(2′-nitrophenyl) propane-1-one | 0.758 mmol, 200 mg | O1CCN(CC1)CCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H16N2O4
reactant | sodium dithionite | 3.79 mmol, 660 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-morpholino-1-(2′-aminophenyl)propane-1-one | 174 mg, 89% | O1CCN(CC1)CCC(=O)C1=C(C=CC=C1)N | C13H18N2O2
